US08633173B2
[8-(4-Methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine and 1-(3-bromo-phenyl)-4-methyl-piperazine in a manner analogous to Step 2d and was isolated as a yellow solid (2% yield). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.84 (s, 1H), 8.28 (d, J=8.3 Hz, 2H), 8.14 (d, J=7.2 Hz, 2H), 7.81 (s, 1H), 6.95 (m, 2H), 6.64 (d, 1H), 3.32 (bm, 4H), 3.14 (s, 3H), 2.67 (bm, 4H), 2.44 (s, 3H). MS=531.1 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)N | C14H11F3N4O2S
reactant | 1-(3-bromo-phenyl)-4-methyl-piperazine | BrC=1C=C(C=CC1)N1CCN(CC1)C | C11H15BrN2
product | [8-(4-Methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C | C25H25F3N6O2S
